US07863291B2
To 4,5-dichloro-2-isothiocyanatopyridine (0.25 g, 1.22 mmol) in N,N-dimethylformamide (20 mL) was added triethylamine (0.43 mL, 3.05 mmol) and (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.29 g, 1.24 mmol) at room temperature. The reaction was stirred at 70° C. for 2 hours. The reaction was cooled to room temperature and concentrated in vacuo. The crude urea was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH). The product was then treated with N,N-dimethylformamide (20 mL) and N,N′-diisopropylcarbodiimide (0.57 mL, 3.66 mmol). The reaction was heated to 70° C. for 2 hours. The reaction was cooled to room temperature and concentrated to yield the crude product. The crude product was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH) to yield (R)—N-(4,5-dichloropyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.09 g, 0.27 mmol, 22% yield) as a white powder. 1H NMR (500 MHz, DMSO-D6) δ ppm 8.81 (s, 1 H), 8.32 (d, J=6.10 Hz, 1 H), 7.03 (s, 1 H), 3.83 (d, J=9.46 Hz, 1 H), 3.57 (d, J=9.77 Hz, 1 H), 2.98 (s, 2 H), 2.71-2.79 (m, 2 H), 2.65 (t, J=7.78 Hz, 2 H), 1.99 (s, 1 H), 1.86 (s, 1 H), 1.53-1.61 (m, 2 H), 1.41-1.49 (m, 1 H). MS (LC/MS) R.T.=0.78; [M+H]+=327.0.

reactant | 4,5-dichloro-2-isothiocyanatopyridine | 1.22 mmol, 0.25 g | ClC1=CC(=NC=C1Cl)N=C=S | C6H2Cl2N2S
reactant | triethylamine | 3.05 mmol, 0.43 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 1.24 mmol, 0.29 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | N,N′-diisopropylcarbodiimide | 3.66 mmol, 0.57 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (R)—N-(4,5-dichloropyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.27 mmol, 0.09 g, 22% yield | ClC1=CC(=NC=C1Cl)NC=1O[C@]2(CN3CCC2CC3)CN1 | C14H16Cl2N4O
